US07423035B2
N-(5-{2-[1-(4-fluoro-benzyl)-cyclopentylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide
Prepared from 645 mg (1.70 mmol) N-[2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide and 414 mg (1.70 mmol) 1-(4-fluoro-benzyl)-cyclopentylamine hydrochloride according to general method 6. Yield: 485 mg (62%, hydrochloride). Mass spectroscopy: [M+H]+=423.

reactant | N-[2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide | 1.70 mmol, 645 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(O)OCC)=O)NS(=O)(=O)C | C18H21NO6S
reactant | 1-(4-fluoro-benzyl)-cyclopentylamine hydrochloride | 1.70 mmol, 414 mg | Cl.FC1=CC=C(CC2(CCCC2)N)C=C1
reactant | hydrochloride | Cl | ClH
product | N-(5-{2-[1-(4-fluoro-benzyl)-cyclopentylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulphonamide | FC1=CC=C(CC2(CCCC2)NCC(O)C=2C=CC(=C(C2)NS(=O)(=O)C)O)C=C1 | C21H27FN2O4S
